2125-02-20 06:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2125-2-20**] 04:07 AM
 BLOOD CULTURED - At [**2125-2-20**] 05:58 AM
 NASAL SWAB - At [**2125-2-20**] 05:58 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2125-2-20**] 05:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-2-20**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-2-20**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**26**] AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 79 (79 - 97) bpm
   BP: 111/57(68) {111/52(65) - 135/57(68)} mmHg
   RR: 19 (16 - 24) insp/min
   SpO2: 97%
   Height: 64 Inch
             Total In:
             2,517 mL
   PO:
             TF:
   IVF:
   517 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    400 mL
   Urine:
   100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  2,117 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   284 K/uL
   7.8 g/dL
   90 mg/dL
   2.8 mg/dL
   21 mEq/L
   3.5 mEq/L
   50 mg/dL
   110 mEq/L
   142 mEq/L
   25.5 %
   10.6 K/uL
        [image002.jpg]
                             [**2125-2-20**]  04:43 AM
   WBC
   10.6
   Hct
   25.5
   Plt
   284
   Cr
   2.8
   Glucose
   90
   Other labs: PT / PTT / INR:15.0/29.7/1.3, ALT / AST:73/73, Alk Phos / T
   Bili:118/0.4, Amylase / Lipase:681/455, Differential-Neuts:78.1 %,
   Lymph:12.6 %, Mono:4.3 %, Eos:4.7 %, Lactic Acid:0.9 mmol/L,
   Albumin:1.9 g/dL, LDH:227 IU/L, Ca++:6.9 mg/dL, Mg++:2.0 mg/dL, PO4:4.7
   mg/dL
   Assessment and Plan
   82 year old female with hypothyroidism, obesity, recent admission for
   PNA, here with SOB and cholecystitis.
   .
   1.  SOB.  Patient present with SOB of unclear duration.  She is obese
   resulting in restriction and has significant left effusion on CXR.
   Patietn has history of two recent admissions for PNA, with worsened
   cough and rising WBC suggestive of PNA versus pulmonary abscess.  Per
   report, most recent echo reveals normal EF but not clear when this was
   performed.
   - Vanco/Cefepime/Flagyl for PNA
   - consider CT chest if stable given limited value of CXR though cannot
   get contrast given renal failure
   - albuterol/atrovent nebs
   - consider diagnostic/therapeutic thoracentesis
   - obtaine echo
   .
   2.   Pancreatitis.  Elevated lipase in setting of cholecystitis with
   gallstones noted in GB is suggestive of gallstone pancreatitis.  Not on
   any clear offending meds and denies recent alcohol use.
   - trend lipase
   - NPO
   .
   3. Transaminitis.  Elevated LFTs but baseline LFTs unknnown.  [**Name (NI) **] sono
   raises the possibility of cholecystitis versus gallstone.  LFTs may be
   elevated most likely due to passed stone.  Normal T. bili with mildly
   elevated alk phos.
   - surgery following
   - Vanco/Cefepime/Flagyl
   - morphine for pain though not currently complaining of pain
   - NPO
   - consider MRCP per surgery
   .
   4.  Rash.  Patient with truncal rash.  Per rehab, patietn was not on
   any antibiotics when the rash developed 3 days ago.  She was afebrile
   at rehab.  Rash is not pruritic.  Rash looks like drug rash, but there
   is not a clear offending medication.
   - follow rash
   - trend CBC with diff
   .
   4.  Renal failure.  Cr was reportedly 1.1 at rehab on [**1-30**] and has
   been steadily rising over the past month and lasix has been gradually
   tapered off.  Her rising Cr at rehab was likely secondary to
   over-diuresis but may have lead to ATN.  Also multiple recent
   antibiotic exposures may have lead to AIN.
   - urine lytes, eos
   - renally dose all meds (Vanco by level)
   - follow UOP
   - IVF challenges
   .
   5.  Lower extremity edema.  Patient with right greater than left LE
   edema that per patient is new over the past few days in the setting of
   stopping lasix.
   - LENIs to r/o DVT
   - echo to evaluate cardiac function
   - hold lasix for now
   .
   6. Pleural effusion.  Persistent left sided pleural effusion.
   - consider thoracentesis for improvement of SOB
   .
   7. Anemia.  Patient has history of iron deficiency aneima.
   - trend Hct
   - Active T&S expires [**2125-2-22**]
   .
   FEN: replete electrolytes, NPO in setting of cholecystitis and
   pancreatitis
   .
   Prophylaxis: Subcutaneous heparin
   .
   Access: doulbe lumen PICC (PICC placed [**2125-1-29**] at Faukner)
   .
   Code:  Full, confirmed with patient
   .
   Communication: Patient, HCP is [**Name (NI) **] [**Name (NI) 12282**] (husband) [**Telephone/Fax (1) 12284**]
   .
   Disposition: pending clinical improvement of respiratory status
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2125-2-20**] 04:07 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-02-21 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ERCP will reassess - hold off ERCP, rec'd CT imaging - findings see
   below:
   CT ABD:large L effusion, small right effusion, atelectasis, pancreas is
   diffusely enlarged with hypodensities scattered within it most marked
   at pancreatic head and calcifications in tail c/w pancreatitis,
   possible fluid collections but hard to say without contrast. small
   ascites in abd, more mod in pelvis, fluid collection in gastro-hepatic
   ligament, 3cm collection in upper quadrant, fluid pushing on spleen
   ?sub capsular vs pseudo-cyst. Possible thickening of cecum. Gallstones.
   - US read (prelim): Densely shadowing anterior gallbladder wall, most
   likely large gallstone. With positive son[**Name (NI) 1976**] [**Name2 (NI) **] sign, this
   is concerning for acute cholecystitis. Additional considerations
   include porcelain gallbladder and emphysematous cholecystitis. CBD
   dilated (10 mm). Four quadrant ascites.
   - surgery signed off.
   - Urine lytes showed pre-renal picture, neg eos, pro/cr = 0.5 (elevated
   though not in nephrotic range of > 3.5), urine 24hr protein is being
   collected.
   - hold off fluid right now, continue antibx for 24hours, then reassess,
   not sure if there is a need for abx.
   - need PCP records [**Name Initial (PRE) **] [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 191**] [**Telephone/Fax (1) 12307**]
   - daughter will bring records from [**Hospital1 **] tomorrow
   - DTR confirmed got zosyn/vanco at rehab recently in re: to the rash
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2125-2-20**] 05:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2125-2-21**] 06:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-2-21**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-2-21**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**26**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98.1
   HR: 95 (78 - 104) bpm
   BP: 88/45(55) {81/41(53) - 114/61(71)} mmHg
   RR: 21 (16 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.2 kg (admission): 94.2 kg
   Height: 64 Inch
             Total In:
                                                                  3,290 mL
                                                                    122 mL
   PO:
                                                                    500 mL
             TF:
   IVF:
                                                                    790 mL
                                                                    122 mL
   Blood products:
   Total out:
                                                                    953 mL
                                                                    200 mL
   Urine:
                                                                    653 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,337 mL
                                                                    -78 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///18/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   left base), (Breath Sounds: Diminished: left base)
   Abdominal: Soft, Bowel sounds present, Distended, Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed, Rash: diffuse maculopapular
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   265 K/uL
   7.7 g/dL
   69 mg/dL
   3.0 mg/dL
   18 mEq/L
   3.9 mEq/L
   51 mg/dL
   110 mEq/L
   140 mEq/L
   24.8 %
   11.2 K/uL
        [image002.jpg]
                             [**2125-2-20**]  04:43 AM
                             [**2125-2-21**]  06:10 AM
   WBC
   10.6
   11.2
   Hct
   25.5
   24.8
   Plt
   284
   265
   Cr
   2.8
   3.0
   Glucose
   90
   69
   Other labs: PT / PTT / INR:15.7/31.3/1.4, ALT / AST:61/54, Alk Phos / T
   Bili:123/0.4, Amylase / Lipase:610/350, Differential-Neuts:78.1 %,
   Lymph:12.6 %, Mono:4.3 %, Eos:4.7 %, Lactic Acid:0.9 mmol/L,
   Albumin:1.8 g/dL, LDH:252 IU/L, Ca++:7.2 mg/dL, Mg++:1.9 mg/dL, PO4:5.4
   mg/dL
   Assessment and Plan
   82 year old female with hypothyroidism, obesity, recent admission for
   PNA, here with SOB and cholecystitis.
   .
   # SOB
 New O2 requirement. Patient with h/o recurrent PNA, significant
   atelectasis with undrainable pleural effusion on the left.
   Persistently elevated WBC despite abx therapy with various agents, the
   last being moxifloxacin and vanc/zosyn.  Per OSH records, last
   echocardiogram shows EF 60% in [**2124-12-25**].
   - vanc/cefepime/flagyl D2/8 for HAP ; consider d/c if negative cultures
   and further evidence of allergy
   - albuterol/atrovent nebs
   - ultrasound chest, looking for fluid
   - TTE today
   - IP consult today for diagnostic thoracentesis
   # pancreatitis
 Elevated lipase in setting of cholelithiasis and
   dilated CBD ~ 10 mm.  Most likely etiology is gallstone pancreatitis.
   CT shows diffuse calcifications.  Patient pain free at this time. Has
   follow up scheduled in [**Month (only) 349**].
   - advance diet
 if symptoms or significant worsening of lipase then
   place nasojejunal tube
   - trend lipase
   - Consult Pancreas/GI for input
 help with plan.
   # transaminitis
 Mildly elevated LFTs consistent with
   cholelithiasis/cholecystitis;  normal Tbili and borderline alk phos,
   ruling out significant infiltrative disease/congestive hepatopathy or
   obstruction
   - f/u surgery recs, GI consult
   - abx as above
   - morphine PRN for pain
   # ARF
 Cr reportedly 1.1 at rehab on [**1-30**]; has trended from 2.8 to 3.0
   has been steadily rising over the past month, in response to which
   lasix was tapered off.   Her rising Cr likely secondary to overdiuresis
   but could be now complicated by ATN.  Other possibility, especially
   given probably drug allergic reaction, is AIN. No urine Eos. She is
   total body fluid overloaded
   - urine electrolytes pending
 prerenal
   - 24 hour urine
  Pending for protein
   - Renal consult today re: proteinuria, rising Cr
   - renally dose meds
   - follow UOP
   # rash
 Patient with truncal rash.  Per rehab, patient w as not on any
   antibiotics when rash was first noticed 3 days prior to presentation,
   but at that time limited to back only.  Rash is nonpruritic. Daughter
   says patient was on vanc/zosyn.  Probably drug allergic reaction given
   this history and peripheral eosinophilia.
   -serial exams
   # LE edema
 Patient with 3+ L>R LE edema that per patient is a
   relatively new development since stopping lasix.
   - LENIs to r/o DVT
   - TTE to evaluate cardiac function
   - holding lasix in setting of ARF
   -  f/up recs from Renal regarding possible proteinuria contributing to
   edema
   -  will resume diet (ADAT) due to possible nutritional deficiencies/low
   albumin contributing to edema
   # anemia
 History of iron deficiency anemia.
   - trend Hct
   - maintain active T+S
   # low blood pressure, asympomatic
   - will review records for baseline blood pressures
   # FEN
 NPO, replete lytes PRN
   # PPx
 HSQ
   # Access
 double lumen PICC placed at [**Hospital1 17**] [**2125-1-29**]
   # Code
 FULL, confirmed with patient
   # [**Name (NI) **]
 husband [**Name (NI) **] [**Telephone/Fax (1) 12284**]
   # Dispo
 ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2125-2-20**] 04:07 AM
   Prophylaxis:
   DVT:  sqh
   Stress ulcer: h2b
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-02-22 06:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2125-2-21**] 09:33 AM
 THORACENTESIS - At [**2125-2-21**] 04:33 PM
   - Renal Consulted:  this is ATN. Also, plentiful Uric Acid crystals
   - FeNa from Ulytes is 0.5
   - Transfused 1 unit for hypoperfused kidneys (ATN)
        - given 1L bolus and maintenance fluids for SBP 90
   - Urine Culture: Probable Enterococcus
   - Daughter brought in records: albumin 3.0 on [**1-30**].5 on [**2-4**]
   - IP - drained 500cc from left chest. Drained from under the scapula.
   Sent for analysis. Complicated by pleuritic pain, treated by morphine.
    - Ph 7.43, Amylase 624, LDH 142, Prote 2.5, Gluc 96, Alb 1.2, TG 16,
   WBC 123 (serum amylase 610, LDH 252, Alb 1.8, Prot 4.4)
    - Exudative by protein, Transudative by all other criteria
   - SPEP: Possible Polyclonal Hypergammaglobulinemia
   - Lipids - LDL 36, HDL 9, TG 76
   -TTE - reassuring - No atrial septal defect is seen by 2D or color
   Doppler. Left ventricular wall thickness, cavity size, and global
   systolic function are normal (LVEF>55%). Due to suboptimal technical
   quality, a focal wall motion abnormality cannot be fully excluded.
   There is no ventricular septal defect. Right ventricular chamber size
   and free wall motion are normal. The aortic root is mildly dilated at
   the sinus level. The aortic valve leaflets (3) are mildly thickened but
   aortic stenosis is not present. No aortic regurgitation is seen. The
   mitral valve leaflets are mildly thickened. Trivial mitral
   regurgitation is seen. The tricuspid valve leaflets are mildly
   thickened. The pulmonary artery systolic pressure could not be
   determined. There is no pericardial effusion.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2125-2-20**] 05:00 AM
   Vancomycin - [**2125-2-21**] 07:48 AM
   Piperacillin/Tazobactam (Zosyn) - [**2125-2-21**] 10:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2125-2-22**] 02:14 AM
   Heparin Sodium (Prophylaxis) - [**2125-2-22**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-2-22**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**26**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.2
   HR: 84 (75 - 102) bpm
   BP: 92/47(58) {80/38(48) - 113/55(70)} mmHg
   RR: 24 (19 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.2 kg (admission): 94.2 kg
   Height: 64 Inch
             Total In:
                                                                  2,610 mL
                                                                    586 mL
   PO:
                                                                    750 mL
             TF:
   IVF:
                                                                  1,510 mL
                                                                    586 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    726 mL
                                                                    280 mL
   Urine:
                                                                    726 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,884 mL
                                                                    306 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///19/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Dullness : bibasilar)
   Abdominal: Soft, Bowel sounds present, Distended, ascites
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 3+
   Skin:  Warm, Rash: diffuse, confluent on trunk, maculopapular on
   extremities, blanching and non-pruritic
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x3,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   273 K/uL
   7.4 g/dL
   81 mg/dL
   2.7 mg/dL
   19 mEq/L
   3.3 mEq/L
   48 mg/dL
   117 mEq/L
   145 mEq/L
   24.3 %
   11.1 K/uL
        [image002.jpg]
                             [**2125-2-20**]  04:43 AM
                             [**2125-2-21**]  06:10 AM
                             [**2125-2-22**]  04:21 AM
   WBC
   10.6
   11.2
   11.1
   Hct
   25.5
   24.8
   24.3
   Plt
   [**Telephone/Fax (3) 12319**]
   Cr
   2.8
   3.0
   2.7
   Glucose
   90
   69
   81
   Other labs: PT / PTT / INR:16.4/32.9/1.5, ALT / AST:37/22, Alk Phos / T
   Bili:94/0.3, Amylase / Lipase:630/526, Differential-Neuts:78.1 %,
   Lymph:12.6 %, Mono:4.3 %, Eos:4.7 %, Lactic Acid:0.9 mmol/L,
   Albumin:1.8 g/dL, LDH:177 IU/L, Ca++:6.6 mg/dL, Mg++:1.7 mg/dL, PO4:4.5
   mg/dL
   Assessment and Plan
   82 year old female with hypothyroidism, obesity, recent admission for
   PNA, here with SOB, cholecystitis and pancreatitis
   .
   # SOB
 New O2 requirement. Patient treated for reccurrent PNA, with
   persistently elevated WBC despite abx therapy with various agents, the
   last being moxifloxacin and, presently, vanc/zosyn. Patient has
   significant atelectasis with exudative pleural effusion on the left. A
   tap on [**2-21**] found exudative fluid by Light
s criteria (protein ratio).
   Additionally it was amylase [**Doctor First Name **] (ARPE). The ddx of ARPE with amylase
   ratio of >/= 1 is overwhelmingly pancreatitis and, rarely, malignancy;
   hers is likely pancreatitis. TTE excludes cardiac cause.
   - vanc/cefepime/flagyl D4/8 for HAP ; consider d/c if negative cultures
   and further evidence of allergy
   - morphine for post-procedure pain
   - follow up cultures of pleural fluid
   - albuterol/atrovent nebs
   # pancreatitis
 Elevated lipase in setting of cholelithiasis and
   dilated CBD ~ 10 mm.  Most likely etiology is gallstone pancreatitis.
   CT shows diffuse calcifications.  Patient pain free at this time.
   Lipase and Amylase rising on [**2-22**] with advancement of diet. The
   inflammatory factors produced by her pancreatitis could be altering her
   splanchnic circulation resulting in the ARF (below) and the third
   spacing. However, the third spacing is further compounded by the
   hypoalbuminemia that is related not only to inflammation but also
   malnutrition x 1 month. TPN is likely to worsen the inflammatory
   process
   - consider Nasojejunal tube today.
   - has follow up scheduled in [**Month (only) 349**].
   - trend lipase
   - f/u GI recs
   # ARF
 Cr reportedly 1.1 at rehab on [**1-30**]; peaked at 3.0 on on [**2-21**].
   Urine Lytes consistently pre-renal; Mild proteinuria.  Her rising Cr
   likely multifacatorial but mostly related to vascular depletion from
   overdiuresis and third spacing. The urine as spun on [**2-21**] to reveal
   profuse muddy brown casts (ATN) but also copious uric acid crystals of
   unknown significance. Still a possibility, given her drug allergic
   reaction, is AIN; however, no urine eos.  She partially responded to
   blood and fluid on [**2-22**].
   - transfuse another unit, avoid crystalloid without colloid
   - treat underlying condition
   - f/u UPEP
   - f/u renal recs
   - renally dose meds
   - follow UOP
   # transaminitis
 Mildly elevated liver enzymes consistent with
   cholelithiasis/cholecystitis that have improved over the
   hospitalization; most likely from cholecystitis.  normal Tbili and
   borderline alk phos, ruling out significant infiltrative
   disease/congestive hepatopathy or obstruction
   - abx as above
   - morphine PRN for pain
   # rash
 Patient with truncal rash.  Per rehab, patient w as not on any
   antibiotics when rash was first noticed 3 days prior to presentation,
   but at that time limited to back only.  Rash is nonpruritic. Daughter
   says patient was on vanc/zosyn.  Probably drug allergic reaction given
   this history and peripheral eosinophilia.
   - serial exams
   # LE edema
 Patient with 3+ L>R LE edema that per patient is a
   relatively new development since stopping lasix. Likely thirdspacing of
   pancreatitis and transudation from hypoalbuminemia
   -  holding lasix in setting of ARF
   -  will resume diet (ADAT) due to possible nutritional deficiencies/low
   albumin contributing to edema
   - f/u LENIs
   # anemia
 History of iron deficiency anemia. Has had chronic
   inflammation as well
   - transfuse with renal perfusion as goal, measured by creatinine
   - trend Hct
   - maintain active T+S
   # low blood pressure, asymptomatic
   - will review records for baseline blood pressures
   # FEN
 NPO, replete lytes PRN
   # PPx
 HSQ
   # Access
 double lumen PICC placed at [**Hospital1 17**] [**2125-1-29**]
   # Code
 FULL, confirmed with patient
   # [**Name (NI) **]
 husband [**Name (NI) **] [**Telephone/Fax (1) 12284**]
   # Dispo
 ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2125-2-20**] 04:07 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition: plan to call out to floor today if feeding tube placed
   without incident